US04329347
6-(2-Methylsulfinyl-ethoxy)-3,4-dihydro-carbostyril
1.42 gm (0.006 mol) of 6-(2-methylmercapto-ethoxy)-3,4-dihydro-carbostyril were suspended in 12 ml of methanol, and a solution of 1.71 gm (0.008 mol) of sodium metaperiodate in 8 ml of water was added. The reaction mixture was stirred for 1.5 hours; at the beginning a distinct warming of the reaction mixture was noted. Subsequently, the mixture was diluted with a little water and exhaustively extracted with chloroform. The evaporation residue of the chloroform extract was recrystallized from ethyl acetate by addition of a little ethanol.

reactant | 6-(2-methylmercapto-ethoxy)-3,4-dihydro-carbostyril | 0.006 mol, 1.42 gm | CSCCOC=1C=C2CCC(NC2=CC1)=O | C12H15NO2S
reactant | sodium metaperiodate | 0.008 mol, 1.71 gm | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 6-(2-Methylsulfinyl-ethoxy)-3,4-dihydro-carbostyril | CS(=O)CCOC=1C=C2CCC(NC2=CC1)=O | C12H15NO3S
